US06040309
Ethyl 3-[(3-methoxyphenyl)sulfinyl]-6-[(methylsulfonyloxy)methyl]benzo[b]thiophene-2-carboxylate
Methanesulfonyl chloride (0.043 ml, 0.55 mmol) was added to a stirred solution of ethyl 6-(hydroxymethyl)-3-[(3-methoxyphenyl)sulfinyl]benzo[b]thiophene-2-carboxylate (Preparation 17, 195 mg, 0.5 mmol) and N-ethyl-N,N-diisopropylamine (0.1 ml, 0.55 mmol) in dichloromethane (3 ml) at 0° C. After 3 hours the solution was washed twice with water, dried (magnesium sulfate), and the solvent removed under reduced pressure. The residue was crystallised from diethyl ether to give the title compound as a colourless solid (155 mg).

reactant | Methanesulfonyl chloride | 0.55 mmol, 0.043 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 6-(hydroxymethyl)-3-[(3-methoxyphenyl)sulfinyl]benzo[b]thiophene-2-carboxylate | 0.5 mmol, 195 mg | OCC=1C=CC2=C(SC(=C2S(=O)C2=CC(=CC=C2)OC)C(=O)OCC)C1 | C19H18O5S2
reactant | N-ethyl-N,N-diisopropylamine | 0.55 mmol, 0.1 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Ethyl 3-[(3-methoxyphenyl)sulfinyl]-6-[(methylsulfonyloxy)methyl]benzo[b]thiophene-2-carboxylate | 155 mg | COC=1C=C(C=CC1)S(=O)C=1C2=C(SC1C(=O)OCC)C=C(C=C2)COS(=O)(=O)C | C20H20O7S3
